US05457207
4-(2-Phenylethyl)pyridine (8.5 g, 46 mmol) and benzyl chloride (11.64 g, 92 mmol) were refluxed in acetone for 48 h. The precipitated 1-benzyl-4-(2phenylethyl)pyridinium chloride was filtered, washed with acetone and dried in vacuo at 50° C. to obtain 9.35 g (65%) off the white solid. 1-Benzyl-4-(2phenylethyl)pyridinium chloride (9.0 g, 29.0 mmol) was suspended in MeOH (100 mL) and cooled to 0° C. in an ice bath. NaBH4 (4.73 g, 207.2 mmol) was added portionwise with vigorous stirring over 40 min. After cooling and stirring for an additional 1 h, the reaction mixture was concentrated under reduced pressure and partitioned between H2O (50 mL) and CH2Cl2 (50 mL). The layers were separated, and the aqueous phase was re-extracted with CH2Cl2 (50 mL). The combined CH2Cl2 extracts were dried over Na2SO4, and concentrated under reduced pressure to provide 7.1 g (91%) of 1-benzyl-4-(2-phenylethyl)-l,2,3,6-tetrahydropyridine as a pale yellow oil. 1H NMR (CDCl3)δ2.14 (br s, 2, N--CH2 --CH2 --CH=), 2.27 (t, 2, J=8 Hz, N--CH2 --CH2 --), 2.57 (t, 2, J=6 Hz, Ph-CH2 --CH2 --), 2.73 (m, 2, Ph-CH2 --CH2), 2.97 (br s, 2, N--CH=), 3.59 (s, 2, Ph-CH2 --N), 5.41 (m, 1, CH=C--), 7.14-7.38 (m, 10, phenyl). 1-Benzyl-4-(2-phenylethyl)-l,2,3,6-tetrahydropyridine (7.1 g, 25.6 mmol) was refluxed in 85% H3PO4 (50 mL) for 80 h. The reaction mixture was basified with 6N NH4OH and extracted with ether (2×100 mL). The ethereal extracts were dried over MgSO4 and concentrated under reduced pressure to a residue. The crude product was purified by radial flow chromatography on silica (hexane,9:acetone, 1) to yield 2.3 g (32%) of 1'-benzyl-2,3-dihydrospiro[indene-l,4'-piperidine] as a straw colored liquid. 1H NMR (CDCl3)δ1.53 (br d, 2, piperidyl β-Heq.), 1.96 (dt, 2, piperidyl β-Hax), 2.02 (t, 2, Ph-CH2 --CH2 --, J=6 Hz, ), 2.20 (dt, 2, piperidyl α-Hax), 2.90 (m, 4, Ph-CH2 --CH2 -- & piperidyl α-Heq), 3.59 (s, 2, benzyl), 7.14-7.40 (m, 9, phenyl).

reactant | 4-(2-Phenylethyl)pyridine | 46 mmol, 8.5 g | C1(=CC=CC=C1)CCC1=CC=NC=C1 | C13H13N
reactant | benzyl chloride | 92 mmol, 11.64 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | 1-Benzyl-4-(2phenylethyl)pyridinium chloride | 29.0 mmol, 9.0 g | [Cl-].C(C1=CC=CC=C1)[N+]1=CC=C(C=C1)CCC1=CC=CC=C1
reactant | NaBH4 | 207.2 mmol, 4.73 g | [BH4-].[Na+]
solvent | acetone | CC(=O)C | C3H6O
solvent | MeOH | 100 mL | CO | CH4O
product | 1-benzyl-4-(2-phenylethyl)-l,2,3,6-tetrahydropyridine | 7.1 g, 91% | C(C1=CC=CC=C1)N1CCC(=CC1)CCC1=CC=CC=C1 | C20H23N
